US07288654B2
A suspension of methyl 3-bromo-10-propyl-7,8,9,10-tetrahydropyrido[2,3-b]azocine-6-carboxylate (820 mg), 4-(2-butoxyethoxy)phenylboric acid (748 mg) and potassium carbonate (868 mg) in toluene (15 ml), ethanol (1.5 ml) and water (1.5 ml) was stirred under an argon atmosphere for 30 minutes. Tetrakis(triphenylphosphine)palladium (140 mg) was added thereto, and the mixture was heated at 115° C. for 6 hours under an argon atmosphere, which was allowed to cool. Water was added and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=19:1→hexane:ethyl acetate=4:1) to give methyl 3-[4-(2-butoxyethoxy)phenyl]-10-propyl-7,8,9,10-tetrahydropyrido[2,3-b]azocine-6-carboxylate (870 mg) as a yellow oily material.

reactant | methyl 3-bromo-10-propyl-7,8,9,10-tetrahydropyrido[2,3-b]azocine-6-carboxylate | 820 mg | BrC1=CC2=C(N(CCCC(=C2)C(=O)OC)CCC)N=C1 | C15H19BrN2O2
reactant | 4-(2-butoxyethoxy)phenylboric acid | 748 mg | C(CCC)OCCOC1=CC=C(C=C1)OB(O)O | C12H19BO5
reactant | potassium carbonate | 868 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
solvent | water | 1.5 ml | O | H2O
catalyst | Tetrakis(triphenylphosphine)palladium | 140 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 3-[4-(2-butoxyethoxy)phenyl]-10-propyl-7,8,9,10-tetrahydropyrido[2,3-b]azocine-6-carboxylate | 870 mg | C(CCC)OCCOC1=CC=C(C=C1)C1=CC2=C(N(CCCC(=C2)C(=O)OC)CCC)N=C1 | C27H36N2O4
